US09388161B2
A mixture of cyclobutyl 5-cyclobutoxy-2,3-difluorobenzoate (49 g, 174 mmol), ethanol (300 mL), sodium hydroxide (20 g, 500 mmol) and water (300 mL) stirred at 60° C. overnight. The mixture was cooled to room temperature and extracted with petroleum ether (2×100 mL). The pH of the aqueous layer was adjusted to 5 with 6 M hydrochloric acid, and then it was extracted ethyl acetate (3×300 mL). The combined ethyl acetate layers were washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated to afford 5-cyclobutoxy-2,3-difluorobenzoic acid (38 g, 96%) as a white solid. MS (ESI, neg. anion) m/z 227 [M−H]−.

reactant | cyclobutyl 5-cyclobutoxy-2,3-difluorobenzoate | 174 mmol, 49 g | C1(CCC1)OC=1C=C(C(=C(C(=O)OC2CCC2)C1)F)F | C15H16F2O3
reactant | ethanol | 300 mL | C(C)O | C2H6O
reactant | sodium hydroxide | 500 mmol, 20 g | [OH-].[Na+]
solvent | water | 300 mL | O | H2O
product | 5-cyclobutoxy-2,3-difluorobenzoic acid | 38 g, 96% | C1(CCC1)OC=1C=C(C(=C(C(=O)O)C1)F)F | C11H10F2O3
